US08530670B2
1-(1H-Benzo[d]imidazol-5-yl)-4-morpholino-5-(4-morpholinophenyl)-1H-pyrrol-2(5H)-one (E28)
The compound was synthesized starting from 1-(1H-benzo[d]imidazol-5-yl)-4-hydroxy-5-(4-morpholinophenyl)-1H-pyrrol-2(5H)-one (0.60 g, 1.59 mmol) and morpholine (3 ml) in toluene/DMF (2:1; 15 ml) according to method 8a described above.

reactant | 1-(1H-benzo[d]imidazol-5-yl)-4-hydroxy-5-(4-morpholinophenyl)-1H-pyrrol-2(5H)-one | 1.59 mmol, 0.60 g | N1C=NC2=C1C=CC(=C2)N2C(C=C(C2C2=CC=C(C=C2)N2CCOCC2)O)=O | C21H20N4O3
reactant | morpholine | 3 ml | N1CCOCC1 | C4H9NO
solvent | toluene DMF | 15 ml | C1(=CC=CC=C1)C.CN(C)C=O
product | 1-(1H-Benzo[d]imidazol-5-yl)-4-morpholino-5-(4-morpholinophenyl)-1H-pyrrol-2(5H)-one | N1C=NC2=C1C=CC(=C2)N2C(C=C(C2C2=CC=C(C=C2)N2CCOCC2)N2CCOCC2)=O | C25H27N5O3
